US07285550B2
18 mmol of 2-furan-2-yl-5-methanesulfonyl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine (prepared as described in Caulkett et al., J. Chem. Soc. Perkin Trans I. 801-808 (1995)) was suspended in 50 mL of CH3CN along with 5 eq. of piperazine. The reaction mixture was stirred under reflux for 2 hours. It was then cooled to room temperature and concentrated under reduced pressure. The residue was taken up in CH2Cl2 and washed with H2O, brine, dried with Na2SO4, and concentrated under reduced pressure. The resulting crude product was purified by chromatography (95% CH2Cl2, 4% MeOH, 1% Et3N) to afford 2-furan-2-yl-5-piperazin-1-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine. 1H NMR (DMSO-d6) δ 8.2 (br s, 2H), 7.85 (d, J=1.0 Hz, 1H), 7.07 (d, J=3.6 Hz, 1H), 6.68 (dd, J=3.6 Hz. 1.0 Hz, 1H), 3.20-2.75 (m, 8H) ppm. MS: m/z=287 [M+H]+.

reactant | 2-furan-2-yl-5-methanesulfonyl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine | 18 mmol | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)S(=O)(=O)C)=N1 | C9H8N6O3S
reactant | piperazine | 5 eq. | N1CCNCC1 | C4H10N2
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 2-furan-2-yl-5-piperazin-1-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)N2CCNCC2)=N1 | C12H14N8O
